US08193378B2
To a solution of ethyl (3R)-1-[(7-{[3-(trifluoromethyl)-4-{[(2S)-1,1,1-trifluoropropan-2-yl]oxy}benzyl]oxy}-2H-chromen-3-yl)methyl]piperidine-3-carboxylate (271 mg) in EtOH (5.4 mL)-THF (2.7 mL) was added a 1 M aqueous NaOH solution (923 μL), followed by stirring at 50° C. for 2 hours. The reaction liquid was cooled to room temperature, then 1 M hydrochloric acid (923 μL) was added thereto, and the vehicle was evaporated. The residue was purified by reverse phase chromatography (H2O:MeCN=100:0 to 30:70) to obtain a yellow oily substance, which was dissolved in dioxane (3 mL), treated with 4 N HCl/dioxane (1 mL), and washed with IPE to obtain (3R)-1-[(7-{[3-(trifluoromethyl)-4-{[(2S)-1,1,1-trifluoropropan-2-yl]oxy}benzyl]oxy}-2H-chromen-3-yl)methyl]piperidine-3-carboxylic acid hydrochloride (215 mg) as a white powder.

reactant | ethyl (3R)-1-[(7-{[3-(trifluoromethyl)-4-{[(2S)-1,1,1-trifluoropropan-2-yl]oxy}benzyl]oxy}-2H-chromen-3-yl)methyl]piperidine-3-carboxylate | 271 mg | FC(C=1C=C(COC2=CC=C3C=C(COC3=C2)CN2C[C@@H](CCC2)C(=O)OCC)C=CC1O[C@H](C(F)(F)F)C)(F)F | C29H31F6NO5
reactant | NaOH | 1 M, 923 μL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 923 μL | Cl | ClH
reactant | HCl dioxane | 4 N, 1 mL | Cl.O1CCOCC1
solvent | EtOH | 5.4 mL | CCO | C2H6O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | THF | 2.7 mL | C1CCOC1 | C4H8O
product | (3R)-1-[(7-{[3-(trifluoromethyl)-4-{[(2S)-1,1,1-trifluoropropan-2-yl]oxy}benzyl]oxy}-2H-chromen-3-yl)methyl]piperidine-3-carboxylic acid hydrochloride | 215 mg | Cl.FC(C=1C=C(COC2=CC=C3C=C(COC3=C2)CN2C[C@@H](CCC2)C(=O)O)C=CC1O[C@H](C(F)(F)F)C)(F)F | InChI=1S/C27H27F6NO5.ClH/c1-16(26(28,29)30)39-23-7-4-17(10-22(23)27(31,32)33)14-37-21-6-5-19-9-18(15-38-24(19)11-21)12-34-8-2-3-20(13-34)25(35)36;/h4-7,9-11,16,20H,2-3,8,12-15H2,1H3,(H,35,36);1H/t16-,20+;/m0./s1
